US07893090B2
(RS)-1-[2-(4-Acetyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone
To a deoxygenated solution of (RS)-1-[2-(4-bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone, E66 (200 mg, 0.39 mmol) in anhydrous 1,4-dioxane (10 ml) was added tributyl(1-ethoxyvinyl)tin (155 mg, 0.43 mmol) and tetrakis(triphenylphosphine)palladium(0) (30 mg, 0.026 mmol). The resultant mixture was refluxed under argon for 20 h. Further tetrakis(triphenylphosphine)palladium(0) (60 mg, 0.052 mmol) was added and refluxing continued for a further 24 h. On cooling, water (15 ml) and 5N hydrochloric acid (10 drops) were added and the mixture stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate (3×). The combined organics were dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 0-100% ethyl acetate-hexane then 2-5% methanol-ethyl acetate) afforded the title compound as a pale orange solid (62 mg, 33%).

reactant | (RS)-1-[2-(4-bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone | BrC1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H22BrFN4OS
reactant | tributyl(1-ethoxyvinyl)tin | 0.43 mmol, 155 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | water | 15 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | hydrochloric acid | 5N, 10 drops | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (RS)-1-[2-(4-Acetyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone | 62 mg, 33% | C(C)(=O)C1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C26H25FN4O2S
